US07169925B2
Step A1: 3-Amino-6-fluoro-1H-indole-2-carboxylic acid, ethyl ester
Under nitrogen, stir and heat a mixture of 2,4-difluorobenzonitrile (1.14 g, 8.2 mmol), ethyl glycinate hydrochloride (1.5 mg, 10.7 mmol), potassium carbonate (3.4 g, 24.6 mmol) and 1-methyl-2-pyrrolidinone (20 mL). After 2 h allow the reaction to cool to 40° C. and add potassium tert-butoxide (300 mg, 2.7 mmol). Allow the reaction to stir and for 1 h and then add additional potassium tert-butoxide (500 mg, 4.4 mmol). Cool to room temperature overnight, pour the reaction mixture onto ice. Add water to dissolve the solids in the reaction flask and add to the reaction quench. Filter off the precipitated brown solid and extract the filtrate with ethyl acetate. Wash the extract with water (2×'s), brine and dry over magnesium sulfate. Filter and concentrate under vacuum to give a residue, which is triturated with dichloromethane to afford a solid. Collect the solid, concentrate the filtrate and chromatograph the solid on silica gel (10 g, Sepack cartridge) with dichloromethane as the eluent. Collect the appropriate fractions and concentrate to obtain a solid. Combine with the previously collected solid to provide 136.7 mg (7.5%) of the title compound: MS 223(M+H).

reactant | 2,4-difluorobenzonitrile | 8.2 mmol, 1.14 g | FC1=C(C#N)C=CC(=C1)F | C7H3F2N
reactant | ethyl glycinate hydrochloride | 10.7 mmol, 1.5 mg | Cl.NCC(=O)OCC
reactant | potassium carbonate | 24.6 mmol, 3.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium tert-butoxide | 2.7 mmol, 300 mg | CC(C)([O-])C.[K+]
reactant | potassium tert-butoxide | 4.4 mmol, 500 mg | CC(C)([O-])C.[K+]
solvent | water | O | H2O
solvent | 1-methyl-2-pyrrolidinone | 20 mL | CN1C(CCC1)=O | C5H9NO
product | 3-Amino-6-fluoro-1H-indole-2-carboxylic acid, ethyl ester | 136.7 mg, 7.5% | NC1=C(NC2=CC(=CC=C12)F)C(=O)OCC | C11H11FN2O2
